US08492378B2
2-[3-(2-chlorophenyl)-1-benzofuran-5-yl]-5-(methylthio)-1,3,4-oxadiazole
A solution of 3-(2-chlorophenyl)-1-benzofuran-5-carbohydrazide (2.22 g, 7.74 mmol), triethylamine (2.14 mL, 15.4 mmol) and carbon disulfide (6.96 g, 116.1 mmol) in ethanol (25 mL) was heated under reflux overnight. After cooling, iodomethane (0.96 mL, 15.4 mmol), potassium carbonate (1.60 g, 11.6 mmol) and N,N-dimethylformamide (25 mL) were added to the reaction mixture, and the resulting mixture was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=6/1) and recrystallized from hexane/ethyl acetate to give the title compound (1.95 g, yield 73%) as colorless crystals.

reactant | 3-(2-chlorophenyl)-1-benzofuran-5-carbohydrazide | 7.74 mmol, 2.22 g | ClC1=C(C=CC=C1)C1=COC2=C1C=C(C=C2)C(=O)NN | C15H11ClN2O2
reactant | triethylamine | 15.4 mmol, 2.14 mL | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 116.1 mmol, 6.96 g | C(=S)=S | CS2
reactant | iodomethane | 15.4 mmol, 0.96 mL | IC | CH3I
reactant | potassium carbonate | 11.6 mmol, 1.60 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 2-[3-(2-chlorophenyl)-1-benzofuran-5-yl]-5-(methylthio)-1,3,4-oxadiazole | 1.95 g, yield 73% | ClC1=C(C=CC=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)SC | C17H11ClN2O2S
